US05047411
A mixture of 3-(4-hydroxy-3-nitrobenzyl)-2,7-dimethylimidazo[1,2-a]pyridine (2.2 g) in ethanol (100 ml) and tetrahydrofuran (50 ml) was hydrogenated over 10% palladium on carbon (0.7 g) under atmospheric pressure of hydrogen gas for 5 hours at ambient temperature. The catalyst was removed by filtration and filtrate was concentrated in vacuo and the precipitate was collected by filtration to give 3-(3-amino-4-hydroxybenzyl)-2,7-dimethylimidazo[1,2-a]pyridine (1.4 g).

reactant | 3-(4-hydroxy-3-nitrobenzyl)-2,7-dimethylimidazo[1,2-a]pyridine | 2.2 g | OC1=C(C=C(CC2=C(N=C3N2C=CC(=C3)C)C)C=C1)[N+](=O)[O-] | C16H15N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.7 g | [Pd] | Pd
product | 3-(3-amino-4-hydroxybenzyl)-2,7-dimethylimidazo[1,2-a]pyridine | 1.4 g | NC=1C=C(CC2=C(N=C3N2C=CC(=C3)C)C)C=CC1O | C16H17N3O
